US05859011
A. 3-Benzyl-3-azabicyclo[3.3.1]nonan-9-one
A mixture of benzylamine(17.25 ml, 0.683 mol), acetic acid(182 ml), c-HCl (13.25 ml), cyclohexanone (13.25 ml, 0.127 mol), and aqueous formaldehyde solution (4.1M, 31.25 ml, 1.25 mol) was stirred at 80° C. for 2 h, cooled, and concentrated. The residue was partitioned between ether and water, and the pH was adjusted to 8 with solid Na2CO3. The reaction mixture was extracted with dichloromethane and the extract was dried over Na2SO4 and concentrated. This residue was taken up in 37 ml ethanol and treated with acetic anhydride (12.5 ml, 0.530 mol), stirred at room temperature for 2 h, treated with c-HCl (15 ml), and stirred at room temperature for 2 h. The reaction mixture was concentrated, and the residue taken up in water and washed with dichloromethane. The aqueous layer was adjusted to pH 8 with solid Na2CO3 and extracted with dichloromethane and ethyl acetate. The extracts combined was dried over Na2SO4 and concentrated. The residue was chromatographed on silica gel using hexane/ethyl acetate: 10/1 as eluent to afford an oil which solidified on standing, mp 48°-50.5° C., 2.4 g (20.5%).

reactant | benzylamine | 0.683 mol, 17.25 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | cyclohexanone | 0.127 mol, 13.25 ml | C1(CCCCC1)=O | C6H10O
reactant | formaldehyde | 1.25 mol, 4.1M, 31.25 ml | C=O | CH2O
reactant | acetic anhydride | 0.530 mol, 12.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 182 ml | C(C)(=O)O | C2H4O2
product | 3-Benzyl-3-azabicyclo[3.3.1]nonan-9-one | C(C1=CC=CC=C1)N1CC2CCCC(C1)C2=O | C15H19NO
